US05616586
To a mixture of potassium cyanide (68.22 g, 1.048 mol), and 3-methylquinoline (50 g, 0.349 mol) in water (200 mL) and dichloromethane (500 mL) was added dropwise benzoyl chloride (81 mL, 0.698 mol) over 2 h at room temperature. The mixture was stirred for 4.5 h at room temperature and then the organic layer was separated. The layer was washed successively with water (300 mL), 1N aqueous hydrochloric acid, and water (200 mL×2), dried over magnesium sulfate, and concentrated to give 103.05 g of N-benzoyl-2-cyano-3-methyl-1,2-dihydroquinoline (108%): 1H NMR (270 MHz, CDCl3) δ7.34 (m, 6H), 7.16 (dd, 1H, J=7.6, 1.3 Hz), 7.07 (dt, 1H, J=1.3, 7.6 Hz), 6.87 (dt, 1H, J=1.3, 7.6 Hz), 6.53 (dd, 1H, J=7.6, 1.3 Hz), 2.12 (d, 3H, J=1.3 Hz).

reactant | potassium cyanide | 1.048 mol, 68.22 g | [C-]#N.[K+]
reactant | 3-methylquinoline | 0.349 mol, 50 g | CC=1C=NC2=CC=CC=C2C1 | C10H9N
reactant | benzoyl chloride | 0.698 mol, 81 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 200 mL | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | N-benzoyl-2-cyano-3-methyl-1,2-dihydroquinoline | 103.05 g, 108% | C(C1=CC=CC=C1)(=O)N1C(C(=CC2=CC=CC=C12)C)C#N | C18H14N2O
